US04010265
8.00 mg. of 1,4-dichloro-8-methyl-7-phenylpyrido[3,4-d]pyridazine was heated together with 2 g. of 2-methyl-morpholine at 120° C for 1.5 hours, after which time the excess 2-methylmorpholine was distilled off. To the residue was added 30 ml. of water and the resultant crystals were recovered by filtration and purified by column chromatography (silica gel; acetone: benzene=1:8) in the same manner described in Example 3. After removal of the solvent, the residue was dissolved in 20 ml. of ethanol. Following the addition of 2 ml. of water, the solution was concentrated to dryness. To the residue was added 20 ml. of water, followed by stirring. The resultant crystals were dried in a vacuum dryer at 50°-60° C for 12 hours, whereupon 600 mg. of 8-methyl-1,4-bis(2-methylmorpholino)-7-phenylpyrido-[3,4-d]pyridazine was obtained. Melting point: 96°-99° C.

reactant | 1,4-dichloro-8-methyl-7-phenylpyrido[3,4-d]pyridazine | ClC1=C2C(=C(N=N1)Cl)C=NC(=C2C)C2=CC=CC=C2 | C14H9Cl2N3
reactant | 2-methyl-morpholine | CC1CNCCO1 | C5H11NO
product | 8-methyl-1,4-bis(2-methylmorpholino)-7-phenylpyrido-[3,4-d]pyridazine | CC1=C(N=CC2=C(N=NC(=C21)N2CC(OCC2)C)N2CC(OCC2)C)C2=CC=CC=C2 | C24H29N5O2
